US05521160
A suspension of 52.6 g of (2-chloro-4-methoxycarbonylbenzyl)-triphenylphosphonium bromide in 500 ml of tetrahydrofuran was treated at 0° C. with 115 ml of 2% methanolic sodium methylate solution. Then, a solution of 16.4 g of methyl 4-formylbenzoate was added dropwise within 10 minutes and the mixture was stirred at room temperature for 1 hour. The suspension was filtered over Dicalite and the filtrate was evaporated. The residue was chromatographed using ethyl acetate/hexane/methylene chloride and gave dimethyl (Z)-2-chlorostilbene-4,4'-dicarboxylate, MS: m/z 330 (M+), and dimethyl (E)-2-chlorostilbene-4,4'-dicarboxylate as colourless crystals, m.p. 134°-135° C., MS: m/z 330 (M+).

reactant | (2-chloro-4-methoxycarbonylbenzyl)-triphenylphosphonium bromide | 52.6 g | [Br-].ClC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC(=C1)C(=O)OC
reactant | sodium methylate | 115 ml | C[O-].[Na+]
reactant | methyl 4-formylbenzoate | 16.4 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | dimethyl (Z)-2-chlorostilbene-4,4'-dicarboxylate | ClC1=C(C=CC(=C1)C(=O)OC)\C=C/C1=CC=C(C=C1)C(=O)OC | C18H15ClO4
